US04236004
7,8-dihydro-5-hydroxy-7-oxo-2-phenyl-8-(2-propenyl)pyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester
To a 50 ml. solution of NaOEt (0.3 g. Na--0.013 mole) was added 2.08 g. (0.013 mole) of diethyl malonate and this was stirred 10 minutes, then stripped to dryness. DMF was added to form a solution and then 1.85 g. (0.0065 mole) of 1-(2-propenyl)-7-phenyl-2H-pyrimido[4,5-d][1,3]oxazine-2,4(1H)-dione was added and heated at reflux for 1.5 hours. When cool, the reaction was poured into dilute HCl and the resulting precipitate collected on a filter and rinsed with water. Recrystallization from ethyl acetate gave 1.0 g. of product--m.p. 177°-180° C.

reactant | NaOEt | 0.013 mole, 0.3 g | CC[O-].[Na+]
reactant | diethyl malonate | 0.013 mole | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-(2-propenyl)-7-phenyl-2H-pyrimido[4,5-d][1,3]oxazine-2,4(1H)-dione | 0.0065 mole | C(C=C)N1C(OC(C2=C1N=C(N=C2)C2=CC=CC=C2)=O)=O | C15H11N3O3
reactant | HCl | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 7,8-dihydro-5-hydroxy-7-oxo-2-phenyl-8-(2-propenyl)pyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C2=CC=CC=C2)N(C1=O)CC=C)O | C19H17N3O4
